US05571810
A mixture of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thiophenamine (1.0 g) and methanesulfonyl chloride (0.27 ml) in pyridine (10 ml) was stirred overnight. Pyridine was evaporated, and the residue was dissolved in ethyl acetate, washed with water, dried and concentrated. The residue was dissolved in tetrahydrofuran (10 ml) and treated with 4N sodium hydroxide (1.8 ml) for 2 hours. Ethyl acetate and water were added and the mixture was separated. The aqueous layer was acidified and extracted with ethyl acetate. The extract was dried and concentrated to dryness. The residue (1.1 g) was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (3:1) to give a pale brown powder of N-{5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thienyl}methanesulfonamide (0.79 g).

reactant | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thiophenamine | 1.0 g | FC1=CC=C(C=C1)C1=C(C=C(S1)N)C1=CC=C(C=C1)S(=O)(=O)C | C17H14FNO2S2
reactant | methanesulfonyl chloride | 0.27 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-{5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thienyl}methanesulfonamide | 0.79 g | FC1=CC=C(C=C1)C1=C(C=C(S1)NS(=O)(=O)C)C1=CC=C(C=C1)S(=O)(=O)C | C18H16FNO4S3
